US07015218B1
2-Chloro-5-nitrobenzonitrile (3.9 g) and piperidinopiperidine (7.2 g) were added to ethanol (40 ml), and the mixture was stirred at 78° C. for 3 h. The solvent was evaporated under reduced pressure. The residue was treated with aqueous sodium hydrogencarbonate and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the residue to allow crystallization. The crystals were recrystallized from ethanol to give 5-nitro-2-(4-piperidinopiperidin-1-yl)benzonitrile (6.2 g), melting point: 134–135° C.

reactant | 2-Chloro-5-nitrobenzonitrile | 3.9 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | piperidinopiperidine | 7.2 g | N1(CCCCC1)N1CCCCC1 | C10H20N2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-nitro-2-(4-piperidinopiperidin-1-yl)benzonitrile | 6.2 g | [N+](=O)([O-])C=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCCCC1 | C17H22N4O2
